US06207662B1
2-(2-methoxy-1-ethoxy)-phenol
Catechol (10.0 g, 91 mmol), bromoethylmethylether (12.6 g, 91 mmol), and potassium carbonate (12.6 g, 91 mmol) were mixed in ethanol (100 ml) and refluxed for 15 h. The solvent was evaporated and dichloromethane (200 ml) was added. The inorganics were filtered off and the solvent was removed in vacuum. Chromatography on silica gel with 0.5% methanol in dichloromethane as the eluent gave the title compound. Yield 4.5 g, 29%.

reactant | Catechol | 91 mmol, 10.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | bromoethylmethylether | 91 mmol, 12.6 g | BrCCOC | C3H7BrO
reactant | potassium carbonate | 91 mmol, 12.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-methoxy-1-ethoxy)-phenol | COCCOC1=C(C=CC=C1)O | C9H12O3
